US05753594
Methyl 3-chloro-3-(3-pyridyl)-2-hydroxybutyrate
0.8 g (20 mmol) of LiCl is dissolved in 100 ml of absolute tetrahydrofuran (THF), the solution is cooled to -20° C., and 20 ml of titanium tetrachloride (1M in dichloromethane) are added dropwise. After the mixture has been stirred for 30 minutes at -20° C., it is cooled to -78° C., and 3.8 g (20 mmol) of methyl 3-(3-pyridyl)-2,3-epoxybutyrate in 50 ml of THF are added dropwise. After the mixture has warmed to room temperature, stirring is continued for 6 hours, the solvent is distilled off, and the residue partitioned between ethyl acetate and water.

reactant | LiCl | 20 mmol, 0.8 g | [Li+].[Cl-]
reactant | methyl 3-(3-pyridyl)-2,3-epoxybutyrate | 20 mmol, 3.8 g | N1=CC(=CC=C1)C1(C(C(=O)OC)O1)C | C10H11NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
catalyst | titanium tetrachloride | 1M, 20 ml | [Ti](Cl)(Cl)(Cl)Cl
product | Methyl 3-chloro-3-(3-pyridyl)-2-hydroxybutyrate | ClC(C(C(=O)OC)O)(C)C=1C=NC=CC1 | C10H12ClNO3
